US08071586B2
E) (R)-4-((S)-3-Hydroxy-1-methoxymethyl-propyl)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester
In analogy to the procedure described in intermediate 20E, (R)-4-((S)-3-hydroxy-1-methoxymethyl-propyl)-2-methyl-[1,4]diazepan-5-one hydrochloride, 1 eq. of triethylamine and 1.1 eq. of di-tert-butyl-dicarbonate gave the title compound in 87% yield as a colorless oil. MS: 331.2 (MH+).

reactant | (R)-4-((S)-3-hydroxy-1-methoxymethyl-propyl)-2-methyl-[1,4]diazepan-5-one hydrochloride | Cl.OCC[C@@H](COC)N1C[C@H](NCCC1=O)C
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 1.1 eq. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (R)-4-((S)-3-Hydroxy-1-methoxymethyl-propyl)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 87% yield | C(C)(C)(C)OC(=O)N1[C@@H](CN(C(CC1)=O)[C@@H](CCO)COC)C | C16H30N2O5
